US07148226B2
Methyl 2-chloro-5-cyclopentyl-7-(3-fluoro-4-isopropoxyphenyl)-5-hydroxy-3-oxoheptanoate
Methyl-2-chloroacetoacetate (2.0 mL, 16.2 mmol) was added to a cooled 0° C. suspension of NaH (0.65 g, 16.2 mmol, 60% dispersion in mineral oil) in THF (54 mL). After 15 min the solution was cooled to −40° C. and n-BuLi (10.0 mL, 16.2 mmol, 1.6M in hexanes) was added. The resulting dianion was stirred for an additional 30 min and then treated with a solution of 1-cyclopentyl-3-(3-fluoro-4-isopropoxyphenyl)propan-1-one (1.5 g, 5.4 mmol, compound was prepared analogously to Step 1 of Example A(82), where 4-(bromo)-2-fluoro-1-isopropoxybenzene was substituted in place of 2-Bromopyridine) in THF (10 ml). After stirring for 1 h at −40° C., the reaction mixture was quenched with saturated NH4Cl and extracted with EtOAc. The organic layers were washed with brine, dried with Na2SO4 and concentrated to an orange oil that was used without further purification.

reactant | Methyl-2-chloroacetoacetate | 16.2 mmol, 2.0 mL | COC(C(C(=O)C)Cl)=O | C5H7ClO3
reactant | NaH | 16.2 mmol, 0.65 g | [H-].[Na+]
reactant | n-BuLi | 16.2 mmol, 1.6M, 10.0 mL | [Li]CCCC
reactant | 1-cyclopentyl-3-(3-fluoro-4-isopropoxyphenyl)propan-1-one | C1(CCCC1)C(CCC1=CC(=C(C=C1)OC(C)C)F)=O | C17H23FO2
reactant | 4-(bromo)-2-fluoro-1-isopropoxybenzene | BrC1=CC(=C(C=C1)OC(C)C)F | C9H10BrFO
reactant | 2-Bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
solvent | THF | 54 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl 2-chloro-5-cyclopentyl-7-(3-fluoro-4-isopropoxyphenyl)-5-hydroxy-3-oxoheptanoate | ClC(C(=O)OC)C(CC(CCC1=CC(=C(C=C1)OC(C)C)F)(O)C1CCCC1)=O | C22H30ClFO5
